US07737166B2
4-Cyano-N,N,5-trimethyl-7-[3-(methylamino)cyclopent-2-enyl]-6-phenyl-1,3-benzoxazole-2-carboxamide (#156-1)
tert-Butyl {3-[4-cyano-2-dimethylcarbamoyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl]cyclopent-2-enyl}methylcarbamate (I-340-1) (134 mg, 0.27 mmol) was dissolved in 4 N hydrochloric acid/1,4-dioxane solution (3 ml), and stirred at room temperature for 2 hours. The solvent was evaporated away under reduced pressure, then ethanol was added to the resulting residue, followed by concentration under reduced pressure. This operation was repeated once again. The residue was dissolved in chloroform (15 ml) and an aqueous saturated sodium hydrogencarbonate solution (15 ml), and vigorously stirred for 10 minutes. The aqueous layer was separated, extracted twice with chloroform. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by preparative TLC (eluent, chloroform:7 N ammonia-containing methanol solution=93:7, v/v) to obtain a roughly-purified product (60 mg). This was further purified by preparative TLC (eluent, chloroform:methanol=9:1, v/v) to obtain a brown solid (50 mg). The solid was washed in slurry with diisopropyl ether, and a pale brown solid was collected by filtration. The solid was dried at 60° C. under reduced pressure for 48 hours to obtain the entitled compound (42 mg, 39%).

reactant | tert-Butyl {3-[4-cyano-2-dimethylcarbamoyl-5-methyl-6-phenyl-1,3-benzoxazol-7-yl]cyclopent-2-enyl}methylcarbamate | 0.27 mmol, 134 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(N(C)C)=O)C2=CC(CC2)CNC(OC(C)(C)C)=O)C2=CC=CC=C2)C | C29H32N4O4
solvent | hydrochloric acid 1,4-dioxane | 4 N, 3 ml | Cl.O1CCOCC1
product | 4-Cyano-N,N,5-trimethyl-7-[3-(methylamino)cyclopent-2-enyl]-6-phenyl-1,3-benzoxazole-2-carboxamide | 60 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)C)C2C=C(CC2)NC)C2=CC=CC=C2)C | C24H24N4O2
